US03974144
When piperidine is substituted for the dimethylamine hydrochloride and the sodium salt of 5-methyl-2-[4-(2-carboxystyryl)phenyl]benzothiophene for the potassium salt of 5-chloro-2-[4-(4-carboxystyryl)phenyl]benzofuran in the procedure described in Example 29 above, there is obtained as the product 5-methyl-2-[4-(2-piperidinocarbonylstyryl)phenyl]benzothiophene.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | sodium | [Na] | Na
reactant | 5-methyl-2-[4-(2-carboxystyryl)phenyl]benzothiophene | CC=1C=CC2=C(C=C(S2)C2=CC=C(C=C2)C=CC2=C(C=CC=C2)C(=O)O)C1 | C24H18O2S
reactant | potassium | [K] | K
reactant | 5-chloro-2-[4-(4-carboxystyryl)phenyl]benzofuran | ClC=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)C=CC2=CC=C(C=C2)C(=O)O)C1 | C23H15ClO3
product | 5-methyl-2-[4-(2-piperidinocarbonylstyryl)phenyl]benzothiophene | CC=1C=CC2=C(C=C(S2)C2=CC=C(C=C2)C=CC2=C(C=CC=C2)C(=O)N2CCCCC2)C1 | C29H27NOS
